US07868036B2
h) tert-Butyl 4-(2-formyl-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate
6.97 ml of triethylamine are added dropwise at 0° C. to the solution of 3.0 g of tert-butyl 4-(2-hydroxymethyl-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate in 11 ml of dimethyl sulphoxide and 55 ml of dichloromethane. 5.23 g of sulphur trioxide-pyridine complex are added in 3 portions at intervals of 10 minutes and the reaction mixture is stirred at 0° C. for a further 3 hours. The reaction mixture is poured onto ice-water, adjusted to pH=2.5 with saturated aqueous potassium bisulphate solution and extracted with diethyl ether (3×)—the combined organic phases are washed successively with water and 5% aqueous sodium hydrogencarbonate solution, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained from the residue as a yellow oil. Rf=0.46 (1:2 EtOAc-heptane).

reactant | triethylamine | 6.97 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 4-(2-hydroxymethyl-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate | 3.0 g | OCC(CC1N(C(OC1)(C)C)C(=O)OC(C)(C)C)C(C)C | C16H31NO4
reactant | potassium bisulphate | S([O-])(O)(=O)=O.[K+]
solvent | dimethyl sulphoxide | 11 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | 55 ml | ClCCl | CH2Cl2
product | tert-Butyl 4-(2-formyl-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate | C(=O)C(CC1N(C(OC1)(C)C)C(=O)OC(C)(C)C)C(C)C | C16H29NO4
